Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Seroquel / Erythromycin Base
 
Attending: ___.
 
Chief Complaint:
early satiety and weight loss
 
Major Surgical or Invasive Procedure:
Postpyloric Dophoff tube placement

 
History of Present Illness:
___ yo F with h/o anorexia nervosa and bulemia with laxative 
abuse presents with reflux, nausea/vomiting and nearly 30 lb 
weight loss over the past year. She is followed by Dr. ___ 
___ of ___, with recent delayed gastric emptying study 
on ___. Today she was direct admitted by Dr. ___ 
further workup and treatment of her nausea, vomiting and 
gastroparesis.  
.  
The patient states that she suffered from an eating disorder for 
a period of seven to ___ years. She was bulimic at first and 
then proceeded to restrict. She states for the last number of 
years her symptoms have been under good control until one year 
ago, at which point she started to experience GERD and 
regurgitation, both of which have increased over the last year. 
6 months ago, symptoms progressed to early satiety, food 
aversion, and postprandial nausea and vomiting. At this point, 
she has reflux if she bends over to tie shoes. 2 weeks ago, her 
postprandial vomiting became acutely worse. Her PO intake has 
dropped off, and for the past 3 days she has only been able to 
tolerate small amounts of clear liquids (gatorade, diluted apple 
juice, water). She feels dizzy with blackouts in her vision when 
standing; has not passed out but feels that she might. Her 
weight has decreased from 160 lbs to 133 lbs over the past year. 
Has noticed decreased UOP recently. Denies chest pain, 
palpitations. Has been to the ED multiple times in the past 2 
weeks for these problems, but has been discharged home after IV 
fluids due to normal labs. Has been prescribed Zofran for 
nausea, which helps at first but ultimately cannot prevent the 
vomiting. She has seen several physicians, one of whom suggested 
that she might have gastroparesis, but did not confirm this with 
a gastric emptying study. She is now followed by Dr. ___ 
___ at ___, who did gastric emptying study on ___ 
which showed delayed gastric emptying from ___ hours. Per 
patient, Dr. ___ PCP ___ been debating 
whether to start TPN but decided not to do so at this point due 
to concern for refeeding syndrome, which pt has had in past. 
Also per patient, Dr. ___ stated that she will likely 
have postpyloric feeding tube placed during this admission.  
.  
Second problem is that of change of bowel habits. A year ago, 
she started to have alternating diarrhea and constipation, 
although this is now quite constipation predominant. She had a 
normal colonoscopy in the past and was diagnosed with IBS. She 
has had two recent emergency visits to ___ for 
constipation and generalized abdominal pain. She is currently on 
amitiza and rifaximin for IBS as prescribed by Dr. ___. Was 
on lactulose previously but stopped because has h/o laxative 
abuse and found the diarrhea distressing. Has also been on 
dicyclomine (bentyl) in the past with little effect. Last night 
she took enema which helped somewhat.  
.  
On the floor, vitals are T 97.7 BP 116/77 P 72 RR 18 SaO2 99% 
RA. She currently does not have nausea ___ pain, but feels 
this is because she has not attempted to eat recently. Complains 
of exhaustion and lightheadedness.  
.  
Review of sytems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denies cough, shortness of 
breath. Denies chest pain or tightness, palpitations. No recent 
change in bladder habits. No dysuria. Denies arthralgias or 
myalgias.  
 
Past Medical History:
h/o Eating disorder/laxative abuse  
Chronic constipation  
Bipolar disorder  
GERD  
Gastroparesis  

 
Social History:
___
Family History:
Pertinent for mother with breast cancer and a half sister with 
type 1 diabetes and a cousin with ___ disease. There is no 
family history of celiac disease. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T: 97.7 BP: 116/77 P: 72 R: 18 O2: 99% RA  
General: pleasant young F in NAD, AAOx3  
HEENT: Sclera anicteric, MMM, oropharynx clear. Dentition 
intact.  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, diffusely mildly tender to palpation, 
non-distended, bowel sounds present, no rebound tenderness or 
guarding, no organomegaly.  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. Capillary refill <2sec.  
.
DISCHARGE PHYSICAL EXAM:

 
Pertinent Results:
ADMISSION LABS:
WBC-8.6 RBC-4.34 Hgb-13.8 Hct-39.7 MCV-92 MCH-31.8 MCHC-34.7 
RDW-12.9 Plt ___
Glucose-80 UreaN-7 Creat-0.9 Na-138 K-5.4* Cl-105 HCO3-23 
AnGap-15
Albumin-4.6 Calcium-9.9 Phos-4.2 Mg-2.3
Triglyc-64
ALT-16 AST-42* LD(LDH)-514* AlkPhos-60 Amylase-95 TotBili-1.0
.
DISCHARGE LABS:
WBC-7.1 RBC-4.18* Hgb-13.4 Hct-38.8 MCV-93 MCH-32.0 MCHC-34.5 
RDW-13.3 Plt ___
Glucose-88 UreaN-8 Creat-0.9 Na-140 K-4.0 Cl-104 HCO3-29 
AnGap-11
Calcium-9.5 Phos-4.8* Mg-2.2

COMPLETE ABDOMINAL ULTRASOUND/DOPPLER (___): The liver 
shows no focal lesions or textural abnormalities. The 
gallbladder is normal without evidence of stones. The common 
bile duct is not dilated. Both right and left kidneys are normal 
without hydronephrosis or stones. The pancreas and spleen are 
unremarkable. The aorta is normal in caliber, and the visualized 
portions of the inferior vena cava appear normal. The stomach is 
completely empty as well as the duodenal sweep. Neither show any 
evidence of fluid or air. Take off of the celiac and SMA from 
the aorta 
appear unremarkable. There are normal flow velocities within the 
celiac and SMA. 
IMPRESSION: Unremarkable abdominal ultrasound with no evidence 
of gastric or duodenal dilatation, abnormal flow velocities or 
SMA syndrome. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of bulimia NOS 
and bipolar disease who reports a ___ month h/o post-prandial 
abdominal pain, early satiety and nausea and vomiting that has 
increased in severity over the last month that is likely due to 
delayed gastric emptying.
.
# Post-prandial pain, nausea and vomiting: Ms. ___ has been 
experiencing post-prandial pain early satiety, nausea and 
vomiting for the last ___ months that has increased in severity 
in the last month and led to a 30 pound weight loss ___ 
pounds in the last month). A gastric emptying study on ___ 
demonstrated delayed gastric emptying with 22% of ingested 
activity remaining in the stomach at 4 hours. She was directly 
admitted by her gastroenterologist Dr. ___ on ___ 
to rule out Superior Mesenteric Artery Syndrome as a cause for 
delayed gastric emptying and for the initiation of post-pyloric 
tube feeds with the intention of bridging to small liquid and 
solid foods as tolerated. Abdominal US on ___ showed no 
evidence of gastric or duodenal dilatation, abnormal flow 
velocities or SMA syndrome. Since she was able to ingest 
liquids, a trial of small liquid meals was made on ___, but 
Ms. ___ continued to experience early satiety and vomiting 
after a few spoonfuls of soup and apple juice. Patient was 
placed on IV Zofran every eight hours to help decrease nausea, 
with encouragement to take Zofran before attempting ingest a 
meal. A feeding tube was placed on the floor and advanced the 
post-pyloric position by interventional radiology. Tube feeds of 
Isosource 1.5 @ were started at 10ml/hr and slowly advanced to 
goal of 90 cc/hour cycled feeds. After enteral nutrition was 
initiated patient reported experiencing less nausea, 
post-prandial pain, and no vomiting. She continued to experience 
early satiety after ingesting liquids such as of ___ ice, 
apple juice and ginger ale. IV erythromycin q8 hours was started 
to increase gastric motility, but this caused increased nausea 
and had to be discontinued. Per Dr. ___, she had a 
psychiatry consult to rule out eating disorder as a contributing 
factor to her early satiety and food aversion.  Psychiatry 
consult found that her symptoms were atypical for anorexia, more 
likely related to delayed gastric emptying. Noted that Lithium 
can cause nausea and anorexia and may be exacerbating her 
symptoms, but did not recommend discontinuation as Lithium has 
been very helpful to patient. They recommended outpatient 
biofeedback to help assess whether anxiety is present 
surrounding meals and to help manage this issue. Inpatient 
Gastroenterology was then consulted. They recommended starting 
Metaclopramide in the short term as a prokinetic agent, as 
tardive dyskinesia is a very uncommon side effect (<1%) of this 
med and usually only occurs after long-term use. She was placed 
on metaclopramide 5mg 30 min before meals and at bedtime, and 
was discharged on this regimen. As an outpatient, patient will 
be bridged to the prokinetic agent Domperidone, which will be 
ordered and obtained by Dr. ___. Also recommended increasing 
omeprazole to 20 mg BID to increase gastric secretions and help 
gastric emptying, and stopping rifaximin as pt has no objective 
evidence of bacterial overgrowth. Recommended restarting Zofran 
as an outpatient as this has been helpful to patient in past. GI 
also recommended holding tube feeds at this point to stimulate 
patient's appetite, and starting small, frequent, low-fat meals. 
Patient tolerated this change in diet. She will have home ___ 
for DHT flushing and possible future tube feeds, and will follow 
up closely with her nutritionist (appointment in 3 days). 

Ms. ___ vitals, electrolytes, and physical exam was closely 
monitored for signs of refeeding syndrome. Thiamin and a 
multi-vitamin were given daily. Ms. ___ did not show any 
signs of volume overload or kwasiorkor. Her potassium, 
magnesium, calcium, and phosphorus were stable throughout her 
hospital stay.  
.
# Constipation:Ms. ___ has a long standing history of 
intermittent constipation and diarrhea that is likely due to her 
 disordered eating behavior and IBS. She has been placed on a 
bowel regimen of Amitiza, Rifaximin and Lactulose by Dr. 
___. She was constipated during the first four days of 
admission, followed by two days of loose stool. Senna and 
Docusate Sodium were discontinued once she began having loose 
stools. This change in bowel habits is likely multifactorial and 
secondary to her IBS and history of disordered eating behavior. 
Of note, patients who are refeeding after periods of anorexia 
can experience diarrhea due to altered bowel flora and atrophied 
intestinal mucosa. Per GI recs, her amitiza and rifaximin were 
discontinued as she does not have any objective evidence of 
bacteria overgrowth. 
.
# Dizziness: on admission, patient complained of dizziness and 
tunnel vision when she stands up after lying down for long 
periods of time. She was mildly orthostatic on arrival to the 
hospital. This was all secondary to her malnutrition and volume 
depletion. After maintenence fluids and then starting tube 
feeds, her dizziness and lightheadedness resolved. 
.
# History of anorexia with laxative use and purging: Ms. ___ 
has history of eating disordered behavior for several years, 
requiring several hospitalizations and occasional tube feeding. 
She describes a great improvement in her body image and sense of 
appropriate weight over the past year. She is eager to regain 
her strength and appetite. We spoke with her extensively about 
this during hospitalization, and psychiatry saw her as well. Do 
not feel that eating disorder has been significantly 
contributing to her current condition. 
.
# Bipolar disorder: Ms. ___ has been diagnosed with bipolar 
disease. We continued her home psychiatric medications (Lithium 
1200, Buproprion 50, Trazadone 25, Clonezepam 1 mg BID). 
Although Buproprion is known to lower the seizure threshold and 
is often avoided in patients with eating disorders, it was 
decided to continue it because of the low dose and because she 
had been stable on this medication for at least six months. 
Psychiatry was consulted and agreed with this assessment. 

TRANSITION OF CARE:
- Patient will need prescription for Domperidone from GI (Dr. 
___. Domperidone can be obtained from ___'S PHARMACY: 
fax # ___. 

 
Medications on Admission:
AMPHETAMINE-DEXTROAMPHETAMINE [ADDERALL] 10mg BID (off this med 
due to manufacturer shortage)  
BUPROPION HCL [WELLBUTRIN] 50mg PO QDAY  
CLONAZEPAM [KLONOPIN] 1mg BID PRN anxiety/insomnia  
LITHIUM CARBONATE - 300mg qAM, 300mg afternoon, 600mg qHS  
LUBIPROSTONE [AMITIZA] - 8 mcg Capsule po BID  
ONDANSETRON HCL [ZOFRAN] - 8mg PO PRN nausea  
RIFAXIMIN [XIFAXAN] - 550 mg Tablet po BID  
TRAZODONE 25 mg po qHS  
OMEPRAZOLE ER 20mg qAM 30min before breakfast  
 
Discharge Medications:
1. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. trazodone 50 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime) as 
needed for insomnia.  
3. lithium carbonate 300 mg Capsule Sig: One (1) Capsule PO QAM 
(once a day (in the morning)).  
4. lithium carbonate 300 mg Capsule Sig: One (1) Capsule PO 
QAFTERNOON ().  
5. lithium carbonate 300 mg Capsule Sig: Two (2) Capsule PO QHS 
(once a day (at bedtime)).  
6. clonazepam 1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for anxiety/insomnia.  
7. bupropion HCl 100 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily). 
 
8. Zofran 8 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for nausea: Take one pill by mouth before 
breakfast, lunch and dinner for 4 days. After that, take as 
needed.
Disp:*90 Tablet(s)* Refills:*0*
9. lubiprostone 8 mcg Capsule Sig: One (1) Capsule PO twice a 
day.  
10. enteral pump
Please dispense one enteral pump with supplies. 
11. Tube feed prescription
Isosource 1.5 Cal Full strength; 
Starting rate: 45 ml/hr; Advance rate by 10 ml q8h Goal rate: 90 
ml/hr
Flush w/ 150 ml water q8h

Once patient tolerating continuous tube feeds at 90 ml/hr, may 
start cycled tube feeds.  
12. metoclopramide 5 mg Tablet Sig: as directed Tablet PO four 
times a day: Take one pill by mouth 30 minutes before meals and 
at bedtime (4 pills total per day).
Disp:*120 Tablet(s)* Refills:*0*
13. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
14. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
15. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
16. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
17. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day) as needed for constipation.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Delayed gastric emptying
2. Malnutrition

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

It was a pleasure participating in your care at ___ 
___. You were admitted for vomiting and 
weight loss caused by delayed gastric emptying. You had a 
feeding tube placed for temporary nutrition until you can 
tolerate eating food by mouth. 

Please attend the appointments with your primary care doctor and 
your gastroenterologist listed below to follow up on your 
delayed gastric emptying. 

You will most likely be started on a medication called 
Domperidone as an outpatient to improve your stomach's 
contraction abilities. Please bring the following information to 
your appointment with Dr. ___ - the pharmacy that 
can dispense Domperidone is: 
    -___ PHARMACY: fax # ___
She will need to contact the pharmacy to see whether it can be 
obtained and dispensed to you. 

We made the following changes to your medications:
1. STARTED metoclopramide 5mg by mouth 30 min before meals and 
at bedtime 
2. STOPPED rifaximin
3. STOPPED amitiza (lubiprostone)
4. INCREASED omeprazole to 20mg twice daily
5. CHANGED zofran to 8mg every 8 hours as needed for nausea. For 
first 4 days, take one pill before breakfast, lunch and dinner. 
After that, take every 8 hours as needed for nausea. 

 
Followup Instructions:
___